US04297439
Compound 1.9: 1-amino-3,6-dithianonane
76.4 g (0.164 mole) of 1-hydroxy-3-thiahexane, produced from propane-1-thiol and 2-chloroethanol in the presence of the equivalent quantity of sodium hydroxide were boiled under reflux for 2 hours with 50 g of thiourea and 77 g of 37% hydrochloric acid. After cooling, 32 g (0.8 mole) of sodium hydroxide in 60 ml of water were added to the clear solution of the isothiuronium salt. Thereafter the mixture was heated for 30 minutes on a steam bath. The 1-mercapto-3-thiahexane precipitated was separated off in a separation funnel and was dissolved under nitrogen in a solution of 68 g (1.7 moles) of sodium hydroxide in 130 ml of water accommodated in a three-necked flask. A total of 74.5 g of 2-chloroethylamine hydrochloride in 200 ml of water was added dropwise to the resulting solution at 333° K. After 1 hour on a steam bath, the amine phase precipitated was separated off with ether (300 ml), dried with 40 g of KOH flakes, concentrated by evaporation and fractionated in vacuo.

reactant | thiourea | 50 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 77 g | Cl | ClH
reactant | sodium hydroxide | 0.8 mole, 32 g | [OH-].[Na+]
reactant | isothiuronium | C=CCCCCCCCCCSC(=N)N.I
reactant | sodium hydroxide | 1.7 moles, 68 g | [OH-].[Na+]
reactant | 2-chloroethylamine hydrochloride | 74.5 g | Cl.ClCCN
solvent | water | 60 ml | O | H2O
solvent | water | 130 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-amino-3,6-dithianonane | NCCSCCSCCC | C7H17NS2
